US05650428
The procedure described in Example 79 was repeated, except that (RS)-2-(4-chlorobenzenesulfonylamino)-3-methanesulfonyloxy-N-(6-methoxycarbonylhexyl)propanamide (144.6 mg) was reacted with imidazole to obtain the desired (RS)-2-(4-chlorobenzenesulfonylamino)-3-(1H-imidazol-1-yl)-N-(6-methoxycarbonylhexyl)propanamide (50.6 mg) together with a less polar by-product. The by-product was not investigated further.

reactant | (RS)-2-(4-chlorobenzenesulfonylamino)-3-methanesulfonyloxy-N-(6-methoxycarbonylhexyl)propanamide | 144.6 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NCCCCCCC(=O)OC)COS(=O)(=O)C | C18H27ClN2O8S2
reactant | imidazole | N1C=NC=C1 | C3H4N2
product | (RS)-2-(4-chlorobenzenesulfonylamino)-3-(1H-imidazol-1-yl)-N-(6-methoxycarbonylhexyl)propanamide | 50.6 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NCCCCCCC(=O)OC)CN1C=NC=C1 | C20H27ClN4O5S
